US07074794B2
2-Chlorobenzimidazole (1.05 g) was dissolved in DMF (10 mL), and N-chlorosuccinimide (1.01 g) was added thereto. The mixture was stirred at 60° C. for 30 min and the reaction mixture was added to water. The precipitated solid was collected by filtration to give 2,5-dichlorobenzimidazole (0.480 g) as a white solid.

reactant | 2-Chlorobenzimidazole | 1.05 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | N-chlorosuccinimide | 1.01 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2,5-dichlorobenzimidazole | 0.480 g | ClC=1NC2=C(N1)C=CC(=C2)Cl | C7H4Cl2N2
